US07354932B2
To a solution of 2-[4-(5,6,7,8-Tetrahydro-quinolin-8-ylamino)-butyl]-isoindole-1,3-dione (0.2011 g, 0.58 mmol) in dichloromethane (5.8 mL) was added 1-Methyl-1H-benoimidazole-2-carbaldehyde (0.1844 g, 1.15 mmol) and NaBH(OAc)3 (0.2462 g, 1.16 mmol), and was stirred at room temperature for four days. The organic phase was washed with NaHCO3 (2×10 mL), dried over Na2SO4, filtered, and concentrated. Purification of the crude material by column chromatography on silica gel (47:2:1 CH2Cl2-MeOH—NH4OH) provided 103 mg (36%) of 2-{4-[(1-Methyl-1H-benzoimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-butyl}-isoindole-1,3-dione. 1H NMR (CDCl3) δ 1.30-1.44 (m, 2H), 1.48-1.63(m, 3H), 1.84-1.96 (m, 2H), 2.03-2.07 (m, 1H), 2.54-2.81 (m, 4H), 3.51 (t, 2H, J=7.2 Hz), 3.95 (s, 3H), 3.99-4.06 (m, 2H), 4.19 (d, 1H, J=13.5 Hz), 6.94-6.98 (m, 1H), 7.13-7.21 (m, 2H), 7.24-7.29 (m, 2H), 7.63-7.68 (m, 3H), 7.74-7.78 (m, 2H), 8.40 (d, 1H, J=3.6 Hz).

reactant | 2-[4-(5,6,7,8-Tetrahydro-quinolin-8-ylamino)-butyl]-isoindole-1,3-dione | 0.58 mmol, 0.2011 g | N1=CC=CC=2CCCC(C12)NCCCCN1C(C2=CC=CC=C2C1=O)=O | C21H23N3O2
reactant | NaBH(OAc)3 | 1.16 mmol, 0.2462 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloromethane | 5.8 mL | ClCCl | CH2Cl2
product | 2-{4-[(1-Methyl-1H-benzoimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-butyl}-isoindole-1,3-dione | 103 mg, 36% | CN1C(=NC2=C1C=CC=C2)CN(CCCCN2C(C1=CC=CC=C1C2=O)=O)C2CCCC=1C=CC=NC21 | C30H31N5O2
